US04116962
1-[2-(Acetylthiomethyl)-5-oxo-6-methylheptanoyl]-L-proline tert.butyl ester
By substituting 2-acetylthiomethyl-5-oxo-6-methylheptanoic acid for the 2-(acetylthiomethyl)-3-acetylthiopropanoic acid in the procedure of Example 2, 1-[2-acetylthiomethyl)-5-oxo-6-methylheptanoyl]-L-proline tert.butyl ester is obtained.

reactant | 2-acetylthiomethyl-5-oxo-6-methylheptanoic acid | C(C)(=O)SCC(C(=O)O)CCC(C(C)C)=O | C11H18O4S
reactant | 2-(acetylthiomethyl)-3-acetylthiopropanoic acid | C(C)(=O)SCC(C(=S)O)CC(C)=O | C8H12O3S2
reactant | L-proline tert.butyl ester | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
product | 1-[2-(Acetylthiomethyl)-5-oxo-6-methylheptanoyl]-L-proline tert.butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CCC(C(C)C)=O)CSC(C)=O)=O)=O | C20H33NO5S
